US07781426B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (500 mg, 0.837 mmol) in DMF (7.5 mL) was added CuCN (150 mg, 1.67 mmol). The reaction was heated to 100° C. and stirred at that temperature for 14 hours. The reaction was then cooled to room temperature, diluted with EtOAc (200 mL), and washed with 100 mL of 2.5 M aqueous ammonia. The organic layer was washed with brine (75 mL) and then filtered through a plug of silica gel. The filtrate was concentrated, and the residue was purified by flash chromatography on silica gel (5 to 50% EtOAc/hexanes) to afford 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzonitrile. Rf=0.29 (25% EtOAc/hexanes). LCMS=497.0 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.91 (s, 1H), 7.88 (s, 1H), 7.86 (d, J=8.2 Hz, 1H), 7.79 (s, 2H), 7.74 (d, J=8.2 Hz, 1H), 5.78 (d, J=7.8 Hz, 1H), 4.93 (d, J=16.1 Hz, 1H), 4.53 (d, J=15.8 Hz, 1H), 4.23 (m, 1H), 0.86 (d, J=6.7 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.837 mmol, 500 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)C)(F)F | C20H13F9INO2
reactant | CuCN | 1.67 mmol, 150 mg | C(#N)[Cu]
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzonitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C#N)C=CC(=C1)C(F)(F)F)C)(F)F | C21H13F9N2O2
